US08168673B2
A solution of (3-(piperidin-1-ylsulfonyl)phenyl)methanol (160 mg, 0.627 mmol) in acetonitrile (5 mL) was added dropwise over 3 minutes to a stirred, ice-cold solution of pyridinium chlorochromate (203 mg, 0.944 mmol) in acetonitrile (5 mL). On completion of the addition the mixture was allowed to attain room temperature, and then heated to reflux for 1 hour. After cooling to ambient temperature and concentrating in vacuo, the residue was then taken up with a mixture of ethyl acetate and saturated sodium bicarbonate solution. The biphasic mixture was transferred to a separating funnel and further partitioned using brine solution. The separated organic phase was passed through a short pad of silica gel, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford 3-(piperidin-1-ylsulfonyl)benzaldehyde (130 mg, 0.51 mmol, 81%) which was used directly without further purification.

reactant | (3-(piperidin-1-ylsulfonyl)phenyl)methanol | 0.627 mmol, 160 mg | N1(CCCCC1)S(=O)(=O)C=1C=C(C=CC1)CO | C12H17NO3S
reactant | pyridinium chlorochromate | 0.944 mmol, 203 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-(piperidin-1-ylsulfonyl)benzaldehyde | 0.51 mmol, 130 mg, 81% | N1(CCCCC1)S(=O)(=O)C=1C=C(C=O)C=CC1 | C12H15NO3S
